US07629358B2
Preparation 96: (2,3-Dihydro-benzofuran-2-yl)-methanol
A solution of meta-chloroperbenzoic acid (96.4 g, 335 mmol) in dichloromethane (500 mL) was added to an ice-cold solution of 2-allylphenol (30 g, 224 mmol) in dichloromethane (1 L) and the mixture was stirred at 0° C. for 30 minutes and at room temperature for 18 hours. The reaction mixture was then re-cooled to 0° C., quenched with 2M sodium hydroxide solution (700 mL) and stirred for 30 minutes. The organic layer was then separated, dried over magnesium sulfate and concentrated in vacuo to give a yellow oil. The oil was purified by HPLC using a Chiralpak AD 250*4.6 mm column and hexane:isopropanol (90:10) as the eluant, to afford the title compound.

reactant | meta-chloroperbenzoic acid | 335 mmol, 96.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-allylphenol | 224 mmol, 30 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | (2,3-Dihydro-benzofuran-2-yl)-methanol | O1C(CC2=C1C=CC=C2)CO | C9H10O2
